US06251921B1
Preparation of 6-Hydroxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl 3-Methoxy-4-[(1-pyrrolidinyl)methyl]phenyl Ketone
6-Benzyloxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl 3-methoxy-4-[(1-pyrrolidinyl)methyl]phenyl ketone (105 mg, 0.16 mmol) in THF (5.0 mL) was treated sequentially with a solution of ammonium formate (25% in H2O, 3 mL) and 10% palladium on carbon (50 mg) at ambient temperature. The resulting mixture was stirred at ambient temperature under argon for 9 h before filtration through diatomaceous earth followed by rinsing with dichloromethane and methanol. The filtrate was extracted with dichloromethane (30 mL×3) which extracts were washed with water (50 mL). The combined organic layers were dried with sodium sulfate and concentrated under reduced pressure. Chromatography with Et3N:MeOH:EtOAc (5:10:85) afforded the product as a yellow solid (80 mg, 88%).

reactant | 6-Benzyloxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl 3-methoxy-4-[(1-pyrrolidinyl)methyl]phenyl ketone | 0.16 mmol, 105 mg | COC=1C=C(C=CC1CN1CCCC1)C(=O)C=1C2=C(SC1C1=CC=C(C=C1)OCCN1CCCC1)C=C(C=C2)OCC2=CC=CC=C2 | C40H42N2O4S
reactant | ammonium formate | 3 mL | C(=O)[O-].[NH4+]
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
product | 6-Hydroxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl 3-Methoxy-4-[(1-pyrrolidinyl)methyl]phenyl Ketone | 80 mg, 88% | COC=1C=C(C=CC1CN1CCCC1)C(=O)C=1C2=C(SC1C1=CC=C(C=C1)OCCN1CCCC1)C=C(C=C2)O | C33H36N2O4S
